US05162318
A mixture of 1.09 g of 5-chloro-2-nitroaniline, 10 g of phenol and 2.0 g of anhydrous potassium carbonate was heated at 150° C for 4 days. The reaction mixture was diluted with 1N sodium hydroxide and extracted with ethyl acetate. The ethyl acetate layer was washed with 1N sodium hydroxide, water and brine in turn and dried over anhydrous sodium sulfate. After removal of the solvent, the residue was chromatographed on silica gel using chloroform to give 0.70 g of 2-nitro-5-phenoxyaniline.

reactant | 5-chloro-2-nitroaniline | 1.09 g | ClC=1C=CC(=C(N)C1)[N+](=O)[O-] | C6H5ClN2O2
reactant | phenol | 10 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | sodium hydroxide | 1N | [OH-].[Na+]
product | 2-nitro-5-phenoxyaniline | 0.70 g | [N+](=O)([O-])C1=C(N)C=C(C=C1)OC1=CC=CC=C1 | C12H10N2O3
